US05552409
Example 201: 6-(4-chlorophenyl)-2-methyl-4,5-dihydropyridazinone
To a 250 ml flask equipped with magnetic stirrer and reflux condenser was charged 10 g of 3-(4-chlorobenzoyl)-propionic acid, 250 ml of absolute ethanol, and 2.5 ml of methyl hydrazine. The reaction was refluxed for 3 hours and cooled to yield a solid which was collected by vacuum filtration, washed with 50 ml of hexane, and air dried. Isolated 9.5 g of product as a white solid.

reactant | 3-(4-chlorobenzoyl)-propionic acid | 10 g | ClC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9ClO3
reactant | methyl hydrazine | 2.5 ml | CNN | CH6N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-(4-chlorophenyl)-2-methyl-4,5-dihydropyridazinone | 9.5 g | ClC1=CC=C(C=C1)C=1CCC(N(N1)C)=O | C11H11ClN2O
